Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Left hip pain
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
HISTORY OF PRESENT ILLNESS: ___ y/o w/history of IVDU who 
presents with acute on chronic hip pain after a mechanical fall. 
Patient reports a one-month history of  left-sided atraumatic 
hip pain (started when he was ambulating and mowing the lawn) 
for which he had X-rays confirming fracture (unclear what type) 
and was scheduled for Orthopedic follow up. Since then, he has 
been ambulating with crutches/cane. He now presents s/p 
mechanical fall due to left leg weakness (leg "slipped"). He 
fell directly onto his buttocks. No headstrike or loss of 
consciousness. Now he notes worsening pain in both hips. He 
denies numbness or tingling. He denies any abdominal pain, 
nausea, vomiting, diarrhea, rhinorrhea, cough, chest pain, 
shortness of breath. 

In the ED, initial VS were T 101.3, HR 100, BP 114/66, RR16, 
97%RA  
Exam notable for:  
Mild ttp R pelvis > L, but no femoral tenderness  
NVI distally  
abd soft/nt/nd  
lungs CTABL  
Labs notable for: Na 131, BUN/Cr ___ WBC 8.0 H/H 12.7/37.9; 
UA negative
Imaging notable for:
- CXR (___): Subtle increased opacity projecting over the 
posterior lung bases on the lateral view, potentially 
atelectasis or chronic interstitial markings. Infection would be 
difficult to exclude. 
- Bilateral femur plain film (___): No acute fractures or 
dislocations.
- Pelvis plain film (___): Chronic appearing left inferior 
pubic ramus fracture. Left superior pubic ramus fractures are 
now more conspicuous. No evidence of interval healing compared 
to ___. 

Patient received:
___ 17:13 PO Acetaminophen 1000 mg
___ 17:13 PO Ibuprofen 800 mg

Transfer VS were 98.1PO 103/60 70 18 95ra 

On arrival to the floor, patient reports the story as above. He 
has a long history of pelvic pain since a motorcycle accident in 
the ___. The pain had gradually been worsening over past couple 
months; XR a month ago showed subacute appearing fractures of 
the superior and inferior pubic rami of the left hemipelvis. 

Reports mechanical fall two days ago with increase in pain, ___ 
at rest to ___ when ambulating. No radiation down legs. 
Patient denies chest pain, dyspnea, fever, chills, increased 
cough, urinary changes at home. 

 
Past Medical History:
HEPATITIS C GENOTYPE 3 (cured in ___
CHRONIC OBSTRUCTIVE PULMONARY DISEASE  
TOBACCO ABUSE  
FRACTURED FEMUR ___  
 motorcycle accident  
 
Social History:
___
Family History:
Sister Living ___ BREAST CANCER  
Mother ___ ___ MYOCARDIAL INFARCTION  
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
VS: 98.1PO  103/60  70  18  95  
GENERAL: NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera 
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, rales in the bases
ABDOMEN: nondistended, +BS, nontender in all quadrants 
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities; no pain to palpation of hips, slight pain to 
palpation of left SI joint; pain with hip flexion bilaterally L 
> R, sensation intact bilaterally
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes 

DISCHARGE PHYSICAL EXAM
=======================
VS: Tmax 99.1 98 105/69 66 18 93%RA
GENERAL: NAD   
HEENT: AT/NC, EOMI, PERRL, anicteric sclera 
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB
ABDOMEN: nondistended, +BS, nontender in all quadrants 
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities; no pain to palpation of hips, slight pain to 
palpation of right SI joint; pain with active but not passive 
hip flexion bilaterally L > R, sensation intact bilaterally
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes
 
Pertinent Results:
ADMISSION LABS
==============
___ 03:24PM BLOOD WBC-8.0# RBC-4.34* Hgb-12.7* Hct-37.9* 
MCV-87 MCH-29.3 MCHC-33.5 RDW-14.0 RDWSD-44.9 Plt ___
___ 03:24PM BLOOD Neuts-83.4* Lymphs-10.2* Monos-5.5 
Eos-0.1* Baso-0.3 Im ___ AbsNeut-6.64* AbsLymp-0.81* 
AbsMono-0.44 AbsEos-0.01* AbsBaso-0.02
___ 03:24PM BLOOD Plt ___
___ 03:24PM BLOOD Glucose-98 UreaN-23* Creat-0.7 Na-131* 
K-4.7 Cl-90* HCO3-28 AnGap-18

MICRO
=====
___ CULTUREBlood Culture, 
Routine-PENDINGEMERGENCY WARD
___ CULTUREBlood Culture, 
Routine-PENDINGEMERGENCY WARD
___ CULTURE-FINALEMERGENCY WARD

IMAGING
=======
CXR ___: Subtle increased opacity projecting over the 
posterior lung bases on the lateral view, potentially 
atelectasis or chronic interstitial markings. Infection would be 
difficult to exclude.  

Bilateral Femur XR ___: No acute fractures or dislocations.  

Pelvis XR ___: Chronic appearing left inferior pubic ramus 
fracture. Left superior pubic ramus fractures are now more 
conspicuous. No evidence of interval healing compared to ___.  

Pelvis XR AP, inlet & outlet ___: Again seen are chronic 
appearing fractures of left inferior pubic ramus and medial and 
lateral aspects of the left superior pubic ramus. 

MRI PELVIS ___
The patient could not complete the exam given pain and 
discomfort with filling supine. Only limited sequences were 
performed. There is motion degradation of the acquired 
sequences. 
  
Minimally displaced fractures of the superior and inferior pubic 
rami. Edema like signal extends into medial acetabulum. Edema 
like signal is also noted within the right sacrum, consistent 
with a right sacral ala fracture. The edema like signal is also 
noted within the right psoas muscle extending along the iliacus 
muscle and along the L5 and S1 nerve roots. No femoral neck 
fracture. 
 

DISCHARGE LABS
==============
___ 06:30AM BLOOD WBC-4.8 RBC-4.50* Hgb-13.2* Hct-39.5* 
MCV-88 MCH-29.3 MCHC-33.4 RDW-13.9 RDWSD-44.6 Plt ___
___ 06:30AM BLOOD ___ PTT-27.9 ___
___ 06:30AM BLOOD Glucose-111* UreaN-25* Creat-0.7 Na-134 
K-4.2 Cl-96 HCO3-27 AnGap-15
___ 06:30AM BLOOD ALT-29 AST-33 AlkPhos-89 TotBili-0.3
___ 06:30AM BLOOD Calcium-9.3 Phos-3.8 Mg-2.1
 
Brief Hospital Course:
HOSPITAL COURSE
===============
Mr. ___ is a ___ year old man with a history of polysubstance 
abuse and chronic pelvic pain who presented with acute on 
chronic hip and pelvic pain following a mechanical fall. 
Orthopedics was consulted and MRI was obtained showing pubic 
ramus fractures, spinal ala edema, and edema in the right psoas 
along the L5 S1 nervce roots. Interventional radiology was 
consulted for cortisone injection and recommended this be 
followed up as an outpatient. He was continued on his home 
methadone dose. He had a recorded fever on admission but did not 
have further fevers while in the hospital. A chest x-ray and 
urine culture did not show evidence of infection. He presented 
with mild hyponatremia to 131 that improved and stabilized 
during his admission. Na on discharge was 134. The patient was 
cleared by physical therapy to be discharged home with home ___. 

ACTIVE ISSUES
=============
# Left inferior ramus fractures
# Hip pain: Acute on chronic hip pain. Patient with a one month 
history of left-sided atraumatic hip pain and previously 
diagnosed fracture (unclear where) now presenting s/p mechanical 
fall with acute on chronic hip pain. Orthopedics was consulted 
and recommended MRI. Limited study in pelvic MRI showed pubic 
rami fracturs and edema in the right sacrum consistent with a 
sacral ala fracture. He was continued on his home methadone. He 
was treated conservatively with pain control and physical 
therapy. Physical therapy evaluated the patient and recommended 
for home ___. 

#Right buttock pain: MRI showed edema in the right psoas along 
the L5, S1 nerve roots. Ortho consulted and with positive ___ 
suggested SI joint pathology, ddx of sacroiliitis vs. sciatica. 
___ was consulted for cortisone injection into right SI joint per 
orthopedic recs. The case was discussed with ___ and they 
recommended the patient follow up with orthopedics to assess 
whether his pain is due to the right sacral ala fracture vs. 
sacroiliitis. 

# Fever: No leukocytosis. Aside from hip pain, no clear 
localizing signs or symptoms. No cough and CXR without focal 
consolidation. No dysuria and UA negative. Not febrile since 
initial measurement, perhaps spurious value. Had one temperature 
of 100.2 but with no localizing symptoms.

# Hyponatremia: Na 131 on admission. Possibly hypovolemic 
hyponatremia. Sodium improved daily with PO intake. 

# Substance use disorder:  Continued home methadone. His 
___ clinic was informed that he had used opiates illicitly 
when at home. 
  
# COPD: Continued home albuterol. No respiratory distress during 
his admission. 

TRANSITIONAL ISSUES
===================
- Last dose of methadone in hospital Methadone 105mg ___ 
08:03
- Last dose of oxycodone in hospital Oxycodone 30mg ___ 
23:53
- Ortho Recs: Elective, nonurgent spine MRI to r/o spinal 
stenosis.
- Ortho follow up: Evaluate right hip pain for etiology of right 
sacral ala fracture vs. sacroiliitis. ___ does not do therapeutic 
injections as inpatient. Consider outpatient referral to ___ for 
SI joint injection if right hip pain thought to be sacroiliitis.
- HCV Ab positive in ___ with history of elevated LFT. Should 
discuss further HCV management with PCP on discharge. Per notes 
cured in ___.
- Workup for fracture in setting of minimal trauma: Consider 
vitamin D, calcium testing and supplementation and DEXA scan.
# Code: Full
# Communication: Sister, ___ home: ___ cell: 
___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Methadone 105 mg PO DAILY 
2. Albuterol Inhaler Dose is Unknown  IH Q6H 

 
Discharge Medications:
1.Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
2.Ibuprofen 800 mg PO Q8H:PRN Pain - Moderate  
3.Albuterol Inhaler ___ PUFF IH Q6H:PRN SOB  
___ 105 mg PO DAILY  
5.Crutches
DX: Fracture of pelvis ICD9: 808
PX: good
___: 13 months
6.Wheeled Walker
DX: Fracture of pelvis ICD9: 808
PX: good
___: 9 months

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis
- Left superior pubic ramus fractures, right sacral ala fracture
Secondary diagnoses
- Substance use disorder
- Hyponatremia
- Chronic obstructive pulmonary disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital because of worsening pelvic 
and hip pain after a fall. We consulted the orthopedic surgeons 
and took more detailed imaging of your pelvis, and determined 
you have two fractures in the pelvis. The imaging also showed 
inflammation in the right side of the pelvis that may be caused 
by a fracture in the sacrum or inflammation in the SI joint. You 
should follow up with orthopedics to discuss further management 
of this issue. The physical therapists worked with you and 
determined you were safe to go home with outpatient ___.

It was a privilege to care for you in the hospital, and we wish 
you all the ___.

Sincerely,

Your ___ Health Team
 
Followup Instructions:
___